US04853404
9.45 g of potassium thiolacetate are added to a solution of 5.45 g of (2,3-dichloro-4-methoxyphenyl)(1-ethoxymethyl-5-pyrazolyl)methanone in dimethylsulfoxide and the mixture is stirred at 90°-100° C. under argon gas atmosphere for 4 hours. After cooling the solution, cold water is added thereto, and the mixture is adjusted to pH 5-6 with acetic acid and then extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography to give 3.72 g of 2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenol.

reactant | potassium thiolacetate | 9.45 g | S1C(=CC=C1)CC(=O)[O-].[K+]
reactant | (2,3-dichloro-4-methoxyphenyl)(1-ethoxymethyl-5-pyrazolyl)methanone | 5.45 g | ClC1=C(C=CC(=C1Cl)OC)C(=O)C1=CC=NN1COCC | C14H14Cl2N2O3
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenol | 3.72 g | ClC1=C(C=CC(=C1Cl)C(=O)C1=CC=NN1COCC)O | C13H12Cl2N2O3
